Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:4],4.27494273365
[C:3]([H:5])[C:10]([H:11])([H:12])[H:13].[O:1][C:2]#[C:4][C:6]([H:7])([H:8])[H:9]>>[O:1]=[C:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-5.26808634979
[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]#[C:8][C:10]([H:11])([H:12])[H:13].[H:9],4.54286551237
[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6](=[C:7](/[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([C:7]([H:8])=[C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16],3.64982716398
[H:10].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7](=[C:8][H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-5.0104309053
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9],4.76000175085
[H:1][O:2][C:3]([O:5][H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:4]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-1.77046152091
[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.99535834847
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8],3.6392550296800006
[H:1][O:2][C@:3]([H:4])([C:5]#[C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13]>>[C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3]([H:4])=[C:11]([H:12])[H:13],2.50170959794
[C:1]#[C:2].[O:3][H:4]>>[C:1]#[C:2][O:3][H:4],-6.811960890469999
[C:6]([H:7])[H:8].[O:1][C:2]#[C:3][C:4][O:5]>>[O:1]=[C:2]=[C:3][C:4][O:5][C:6]([H:7])[H:8],-0.76203951225
[C:11]([H:12])([H:13])[H:14].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.63674794684
[C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]#[C:4][H:5]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-3.5955390673000003
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9][H:10]>>[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9][H:10].[H:1],3.93143917524
[C:1]#[C:2][C:3]([C:4]#[C:5])[O:7][H:8].[H:6]>>[C:1]#[C:2][C:3]([C:4]#[C:5][H:6])[O:7][H:8],-5.827787559380001
[H:11].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.4396462499
[H:13].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13],-4.8518200272600005
[C:4]#[C:5][H:6].[H:1][C:2](=[C:3][C:8]([H:9])([H:10])[O:11][H:12])[H:7]>>[H:1][C:2]#[C:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-6.206349804839999
[C:4]([H:5])#[C:6][C:7]([H:8])[H:9].[O:1][C:2][C:3]>>[O:1]=[C:2]=[C:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9],-4.18604013904
[O:1][O:2]/[C:3]=[C:4](\[H:5])[C:6][H:7]>>[C:6][H:7].[O:1][O:2][C:3]#[C:4][H:5],4.51355521628
[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[O:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-0.67207261634
[H:4].[O:1]1[C:2]([C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11])[C:3]1>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],-3.64853367626
[C:2]#[C:5][C:6]([H:7])([H:8])[H:9].[H:1][C:4][H:3]>>[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[H:9],-7.42444589479
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[O:11][H:12]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[O:11][H:12],1.06567862927
[C:4](\[H:5])(=[C:6]\[O:7][H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6][O:7][H:8])[C:9]([H:10])([H:11])[H:12],-2.23827104028
[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:2](#[C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[O:1],2.8521530740400003
[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][H:8]>>[C:1].[C:2]#[C:3][C:4]([H:5])([H:6])[O:7][H:8],6.48174700643
[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[H:8]>>[C:5]([H:6])([H:7])[H:8].[O:1][O:2][C:3][H:4],4.96493802847
[C:6][H:7].[H:1][C:2][O:3][C:4]#[C:5][O:8][H:9]>>[H:1][C:2][O:3][C:4][C:5](=[C:6][H:7])[O:8][H:9],-4.61360447172
[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[O:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7],-1.51526388512
